US04410536
3-Butyl-5-hydrazinobenzothiophene hydrochloride
12.1 g of 3-butyl-5-aminobenzothiophene hydrochloride are mixed with 50 ml of H2O and 50 ml of concentrated HCl, and a solution of 3.6 g of NaNO2 in 40 ml of water is added dropwise at -5°. The solution obtained is added dropwise to a mixture, cooled to -15° C., of 28.4 g of S2Cl2.2H2O and 50 ml of concentrated HCl. After warming the reaction mixture to room temperature, the precipitate which has separated out is filtered off, washed with cold concentrated HCl and put into ice-water and the mixture is covered with a layer of ether and rendered alkaline with 20% strength NaOH. The ethereal phase is washed and dried and acidified with HCl/ether; the precipitate is boiled up in ethyl acetate and filtered off. Melting point: 168°-170° C.

reactant | 3-butyl-5-aminobenzothiophene hydrochloride | 12.1 g | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)N
reactant | HCl | 50 ml | Cl | ClH
reactant | NaNO2 | 3.6 g | N(=O)[O-].[Na+]
reactant | HCl | 50 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | H2O | 50 ml | O | H2O
product | 3-Butyl-5-hydrazinobenzothiophene hydrochloride | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)NN | InChI=1S/C12H16N2S.ClH/c1-2-3-4-9-8-15-12-6-5-10(14-13)7-11(9)12;/h5-8,14H,2-4,13H2,1H3;1H
